US07632838B2
To a stirred solution of 1-(3-chloropyridin-2-yl)piperazine (316 mg, 1.6 mmol) in anhydrous dichloromethane (5 mL) was added diisopropylethylamine (0.975 mL, 5.6 mmol) then 4-tert-butylbenzene-1-sulfonyl chloride (372.4 mg, 1.6 mmol). The mixture was stirred at room temperature for 1.5 hour. Reaction was complete as determined by TLC. The reaction mixture was purified with flash column chromatography to yield 1-[(4-tert-butylphenyl)sulfonyl]-4-(3-chloropyridin-2-yl)piperazine in 59.3% yield (374 mg) as white solid.

reactant | 1-(3-chloropyridin-2-yl)piperazine | 1.6 mmol, 316 mg | ClC=1C(=NC=CC1)N1CCNCC1 | C9H12ClN3
reactant | diisopropylethylamine | 5.6 mmol, 0.975 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-tert-butylbenzene-1-sulfonyl chloride | 1.6 mmol, 372.4 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-[(4-tert-butylphenyl)sulfonyl]-4-(3-chloropyridin-2-yl)piperazine | 59.3% yield | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=NC=CC=C1Cl | C19H24ClN3O2S
